US08277897B2
60.0 g of methyl methacrylate, 20.0 g of 3,4-epoxycyclohexylmethyl acrylate, 226.6 g of ethylene carbonate and 0.24 g of 2,2′-azobis(isobutyronitrile) were placed in a 500 mL capacity three-necked flask equipped with a refluxing condenser and stirred and mixed for 30 minutes while nitrogen gas was introduced into the flask. The mixture was heated to 70° C. and radical polymerization was carried out at the temperature over 8 hours. The resulting reaction mixture was cooled to 40° C. 226.6 g of diethyl carbonate and 0.24 g of 2,2′-azobis(isobutyronitrile) were added to the reaction mixture and the resulting mixture was again heated to 70° C. for carrying out radical polymerization at the temperature for another 8 hours. The resulting reaction mixture was cooled to 40° C. thereby to obtain a solution of a polymer in a concentration of 15% by weight in a solvent of ethylene carbonate/diethyl carbonate mixture.

reactant | methyl methacrylate | 60.0 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | 3,4-epoxycyclohexylmethyl acrylate | 20.0 g | C(C=C)(=O)OCC1CC2C(CC1)O2 | C10H14O3
reactant | ethylene carbonate | 226.6 g | C1(OCCO1)=O | C3H4O3
reactant | 2,2′-azobis(isobutyronitrile) | 0.24 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | diethyl carbonate | 226.6 g | C(OCC)(OCC)=O | C5H10O3
reactant | 2,2′-azobis(isobutyronitrile) | 0.24 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | ethylene carbonate diethyl carbonate | C1(OCCO1)=O.C(OCC)(OCC)=O | InChI=1S/C5H10O3.C3H4O3/c1-3-7-5(6)8-4-2;4-3-5-1-2-6-3/h3-4H2,1-2H3;1-2H2
